US04337256
1-Amino-2-(2-chlorophenyl)ethane and o-toluoyl chloride were reacted in the same way as in step (a) of Example 13 to afford 1-(o-toluoylamino)-2-(2-chlorophenyl)ethane having a melting point of 91.6° C. The product was successively reacted in the same way as in steps (b), (c), (d), (e), (f), (g), and (h) of Example 13 to afford 1-(2-methylphenyl)isoquinoline-5-acetonitrile having a melting point of 120.3° to 120.4° C.

reactant | 1-Amino-2-(2-chlorophenyl)ethane | NCCC1=C(C=CC=C1)Cl | C8H10ClN
reactant | o-toluoyl chloride | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
product | 1-(o-toluoylamino)-2-(2-chlorophenyl)ethane | C=1(C(=CC=CC1)C(=O)NCCC1=C(C=CC=C1)Cl)C | C16H16ClNO
